US03931199
A mixture of 2 g of 2-(p-carboxyphenoxy)nicotinic acid and 30 g of concentrated sulfuric acid is stirred at 180°-190°C for 40 minutes on an oil bath. After cooling with water, the reaction mixture is poured into ice water. A jelly-like substance produced crystallizes on heating. The crystals are filtered off, washed thoroughly with water, and recrystallized from aqueous dioxane to give 1.5 g of 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7 -carboxylic acid melting at 293°-294°C.

reactant | 2-(p-carboxyphenoxy)nicotinic acid | 2 g | C(=O)(O)C1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C13H9NO5
reactant | sulfuric acid | 30 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7 -carboxylic acid | 1.5 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)O | C13H7NO4
